US07495001B2
In analogy to the procedures described in example 4D] and 4E], 2-(4-hydroxy-naphthalen-2-yloxy)-2-methyl-propionic acid ethyl ester (example 17D]) was reacted with 2-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-ethanol (example 4K]) to give 2-methyl-2-(4-{2-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-ethoxy}-naphthalen-2-yloxy)-propionic acid ethyl ester, which was subsequently saponified to yield the title compound as orange solid.

reactant | 2-(4-hydroxy-naphthalen-2-yloxy)-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)OC1=CC2=CC=CC=C2C(=C1)O)=O | C16H18O4
reactant | 2-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-ethanol | CC1=NC(=CC=C1CCO)C1=CC=C(C=C1)C(F)(F)F | C15H14F3NO
product | 2-methyl-2-(4-{2-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-ethoxy}-naphthalen-2-yloxy)-propionic acid ethyl ester | C(C)OC(C(C)(OC1=CC2=CC=CC=C2C(=C1)OCCC=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C)C)=O | C31H30F3NO4
